US07323466B2
(R)-2-(3-Cyclopropyl-4-methoxy-benzyl)-morpholine
The solution of 0.98 mL (1.1 mmol; 1.1M solution in toluene) diethyl zinc in 2 mL dichloromethane was cooled down to 0° C. Then 0.8 mL trifluoroacetic acid in 2 mL dichloromethane and after 25 min. a solution of 0.29 g diiodomethane in 2 mL dichloromethane was added. After another 20 min. 0.18 g (0.54 mmol) (R)-2-(4-methoxy-3-vinyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester dissolved in 2 mL dichloromethane was added. The ice bath was removed and after 45 min. stirring at room temperature the reaction mixture was poured on 1M hydrochloric acid and extracted three times with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was chromatographed using MPLC and dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give the compound as a light brown oil (26%).

reactant | diethyl zinc | 1.1 mmol, 1.1M, 0.98 mL | C(C)[Zn]CC
reactant | trifluoroacetic acid | 0.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | diiodomethane | 0.29 g | ICI | CH2I2
reactant | (R)-2-(4-methoxy-3-vinyl-benzyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.54 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CC1=CC(=C(C=C1)OC)C=C | C19H27NO4
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (R)-2-(3-Cyclopropyl-4-methoxy-benzyl)-morpholine | 26% | C1(CC1)C=1C=C(C[C@@H]2CNCCO2)C=CC1OC | C15H21NO2
